US07855216B2
Step 2: 3-(2-Fluoro-4-iodo-phenylamino)-1-prop-2-ynyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-hydroxy-ethoxy)-amide
To a stirred solution of 3-(2-fluoro-4-iodo-phenylamino)-1-prop-2-ynyl-1-H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide (35.0 mg, 0.067 mmol) in anhydrous MeOH (6.7 mL) and anhydrous THF (3.4 mL) under N2 was added 4 M HCl in dioxane (50 μL, 0.20 mmol, 3.0 eq), and the reaction mixture was stirred at room temperature. After 3 h the solvent was removed in vacuo and the residue was redissolved in acetonitrile (2.0 mL) and loaded onto Phenomenex Strata-X cartridge (5 g). The cartridge was washed with water (10 mL) and MeOH (15 ml). The desired product was then eluted using 2M ammonia in MeOH. Trituration from DCM-hexane afforded the title compound as a yellow solid (32.7 mg, 98.5%). 1H-NMR (400 MHz, DMSO-d6) δ ppm 8.58 (d, J=0.82 Hz, 1H), 8.36 (d, J=5.93 Hz, 1H), 7.79-7.62 (m, 2H), 7.60-7.47 (m, 1H), 7.30-7.15 (m, 1H), 6.34-6.15 (m, 1H), 5.33 (s, 2H), 4.77 (broad s, 1H), 3.84 (t, J=4.54 Hz, 2H), 3.61-3.50 (m, 2H), 3.42-3.34 (m, 2H); LC-MS (method E): [M+H]+=495.1, RT=3.54 min.

reactant | 3-(2-fluoro-4-iodo-phenylamino)-1-prop-2-ynyl-1-H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-vinyloxy-ethoxy)-amide | 0.067 mmol, 35.0 mg | C(=C)OCCONC(=O)C1=C(C=2C=NC=CC2N1CC#C)NC1=C(C=C(C=C1)I)F | C21H18FIN4O3
reactant | HCl | 4 M | Cl | ClH
reactant | dioxane | 0.20 mmol, 50 μL, 3.0 eq | O1CCOCC1 | C4H8O2
solvent | MeOH | 6.7 mL | CO | CH4O
solvent | THF | 3.4 mL | C1CCOC1 | C4H8O
product | 3-(2-Fluoro-4-iodo-phenylamino)-1-prop-2-ynyl-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2-hydroxy-ethoxy)-amide | 32.7 mg, 98.5% | OCCONC(=O)C1=C(C=2C=NC=CC2N1CC#C)NC1=C(C=C(C=C1)I)F | C19H16FIN4O3
